US04058568
Preparation of 1,2,3,4,9,9-hexachloro-1,4,4a,6,7,8a-hexahydro-1,4-methanonaphthalene-5,8-dione.
38 g. of 1,2,3,4,9,9-hexachloro-1,4,4a,8a-tetrahydro-1,4-methanonaphthalene-5,8-dione, prepared as in Example 1, were suspended in 150 ml. of glacial acetic acid and then this mixture was poured into 20 g. of zinc dust suspended in 150 ml. of distilled water. A slight exotherm occurred during stirring and the temperature was maintained at 50° C. for 3 hours by external heating. Then 200 ml. of chloroform were added and stirring was continued for 30 minutes more. The chloroform layer was separated and washed with a saturated sodium carbonate solution and dried over anhydrous magnesium sulfate. Evaporation of the chloroform left a white solid. One recrystallization from methanol gave white crystals, m.p. 169°-170° C. Infrared spectrum showed carbonyl at 1740 cm-1. The nmr indicated two bridgehead protons at 431 Hz (singlet) and four α- protons at 303 Hz and 245 Hz (as a multiplet).

reactant | 1,2,3,4,9,9-hexachloro-1,4,4a,8a-tetrahydro-1,4-methanonaphthalene-5,8-dione | ClC12C(=C(C(C3C(C=CC(C13)=O)=O)(C2(Cl)Cl)Cl)Cl)Cl | C11H4Cl6O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | water | O | H2O
catalyst | zinc | [Zn] | Zn
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1,2,3,4,9,9-hexachloro-1,4,4a,6,7,8a-hexahydro-1,4-methanonaphthalene-5,8-dione | ClC12C(=C(C(C3C(CCC(C13)=O)=O)(C2(Cl)Cl)Cl)Cl)Cl | C11H6Cl6O2
